US05834173
4-amino-N-ethyl-N-(2-methoxyethyl)-m-toluidine di-p-toluene sulfonic acid.
A mixture of 4-methanesulfonamidobenzoylacetonitrile (10 g, 42 mmol), 2-methylindole-3-carboxaldehyde (7.3 g, 46 mmol) and ammonium acetate (1 g, 12.6 mmol) in 80 mL acetic acid was heated to reflux and held 3 h. The reaction was then cooled to 25° C., and the precipitated dye collected by filtration and washed with acetic acid. The crude dye was slurried in hot acetic acid for 30 min then collected by filtration and dried. Isolated 13 g (82%) of Dye 5. All analytical data were consistent with the structure.

reactant | 4-methanesulfonamidobenzoylacetonitrile | 42 mmol, 10 g | CS(=O)(=O)NC1=CC=C(C(=O)CC#N)C=C1 | C10H10N2O3S
reactant | 2-methylindole-3-carboxaldehyde | 46 mmol, 7.3 g | CC=1NC2=CC=CC=C2C1C=O | C10H9NO
reactant | ammonium acetate | 12.6 mmol, 1 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 4-amino-N-ethyl-N-(2-methoxyethyl)-m-toluidine di-p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.NC1=C(C=C(N(CCOC)CC)C=C1)C | InChI=1S/C12H20N2O.2C7H8O3S/c1-4-14(7-8-15-3)11-5-6-12(13)10(2)9-11;2*1-6-2-4-7(5-3-6)11(8,9)10/h5-6,9H,4,7-8,13H2,1-3H3;2*2-5H,1H3,(H,8,9,10)
